US07517910B2
methyl 3-(4-{[3-(1H-indol-5-yl)benzyl]oxy}phenyl)propanoate
To a solution of 3-(4-{[3-(1H-indol-5-yl)benzyl]oxy}phenyl)propanoic acid (1.0 g, 2.69 mmol) in tetrahydrofuran (30 mL) was added a 2 mol/L trimethylsilyldiazomethane diethyl ether solution (1.5 mL, 3.0 mmol), and the mixture was stirred at room temperature for 18 hr. The reaction solution was diluted with ethyl acetate, and the mixture washed successively with aqueous citric acid solution, water and aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:5-1:3-1:2) to give the title compound (0.90 g, yield 86%) as a pale-yellow oil.

reactant | 3-(4-{[3-(1H-indol-5-yl)benzyl]oxy}phenyl)propanoic acid | 2.69 mmol, 1.0 g | N1C=CC2=CC(=CC=C12)C=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1 | C24H21NO3
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-(4-{[3-(1H-indol-5-yl)benzyl]oxy}phenyl)propanoate | 0.90 g, yield 86% | N1C=CC2=CC(=CC=C12)C=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C25H23NO3
